US09061999B2
4-(2-(2-methoxy-5-nitrophenoxy)ethyl)morpholine (350 mg, 1.2 mmol, 1 eq.) and tin (II) chloride dihydrate (1.4 g, 6.20 mmol, 5 eq.) were placed in EtOH (12.3 mL). The reaction mixture was heated at 60° C. and stirred for 19 hours. The reaction mixture was then concentrated under reduced pressure and the resulting residue was diluted with ethyl acetate. The organic phase was washed with a 1N NaOH aqueous solution, dried over MgSO4, filtered and concentrated under reduced pressure. The resulting residue was purified by column chromatography on silica gel to afford 4-methoxy-3-(2-morpholinoethoxy)aniline (143 mg, 46%).

reactant | 4-(2-(2-methoxy-5-nitrophenoxy)ethyl)morpholine | 1.2 mmol, 350 mg, 1 eq. | COC1=C(OCCN2CCOCC2)C=C(C=C1)[N+](=O)[O-] | C13H18N2O5
reactant | tin (II) chloride dihydrate | 6.20 mmol, 1.4 g, 5 eq. | O.O.[Sn](Cl)Cl
solvent | EtOH | 12.3 mL | CCO | C2H6O
product | 4-methoxy-3-(2-morpholinoethoxy)aniline | 143 mg, 46% | COC1=C(C=C(N)C=C1)OCCN1CCOCC1 | C13H20N2O3
